US08686048B2
Intermediate 74: 3′-methoxybiphenyl-4-amine
The title compound (58 mg) was prepared from 4-bromoaniline (300 mg, 1.74 mmol) and 3-methoxyphenylboronic acid (344 mg, 2.26 mmol) as a yellow liquid.

reactant | 4-bromoaniline | 1.74 mmol, 300 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 3-methoxyphenylboronic acid | 2.26 mmol, 344 mg | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 3′-methoxybiphenyl-4-amine | 58 mg | COC=1C=C(C=CC1)C1=CC=C(C=C1)N | C13H13NO
